US07301036B2
Step A. 5,6-Dichloro-N-[4-(trifluoromethoxy)phenyl]-1H-benzimidazol-2-amine
A solution of 4,5-dichloro-1,2-phenylenediamine (2 mmol, 354 mg) and 4-trifluoromethoxyphenyl isothiocyanate (2 mmol, 325 μL) in CH2Cl2 (3 mL) was heated at 40° C. for 4 h. MeI (2.2 mmol, 137 μL) and DIEA (2.0 mmol, 348 μL) were added, and the reaction was brought to 40° C. for 24 h. The reaction mixture was partitioned between CH2Cl2 and brine. The organic phase was dried with Na2SO4 and concentrated in vacuo. Chromatography on silica eluting with 20-40% EtOAc in hexanes provided the product as a tan solid. 1H NMR (500 MHz, d6-DMSO) δ 11.2 (br s, 1H), 9.91 (s, 1H), 7.84 (m, 2H), 7.52 (br s, 1H), 7.34 (d, J=9 Hz, 2H). LC-MS (ESI, Method A): 2.96 min, m/z 362.1 (M+1).

reactant | 4,5-dichloro-1,2-phenylenediamine | 2 mmol, 354 mg | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | 4-trifluoromethoxyphenyl isothiocyanate | 2 mmol, 325 μL | FC(OC1=CC=C(C=C1)N=C=S)(F)F | C8H4F3NOS
reactant | MeI | 2.2 mmol, 137 μL | CI | CH3I
reactant | DIEA | 2.0 mmol, 348 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 5,6-Dichloro-N-[4-(trifluoromethoxy)phenyl]-1H-benzimidazol-2-amine | ClC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC(F)(F)F)C=C1Cl | C14H8Cl2F3N3O
